US09359340B2
A solution of tert-butyl 2-(4-chlorophenyl)-3-(4-((5R)-7-hydroxy-5,7-dimethyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-3-oxopropyl(isopropyl)carbamate (46 mg, 0.080 mmol) in DCM (6 mL) was added to a 4.0M HCl solution in dioxane (1.4 mL, 5.63 mmol). The mixture was stirred at room temperature for 16 hours. The solvents were removed in vacuo to give 2-(4-chlorophenyl)-1-(4-((5R)-7-hydroxy-5,7-dimethyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-3-(isopropylamino)propan-1-one dihydrochloride (49 mg, 100%) as a mixture of diastereomers. Rt: 2.05 and 2.18 min.

reactant | tert-butyl 2-(4-chlorophenyl)-3-(4-((5R)-7-hydroxy-5,7-dimethyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-3-oxopropyl(isopropyl)carbamate | 0.080 mmol, 46 mg | ClC1=CC=C(C=C1)C(CN(C(OC(C)(C)C)=O)C(C)C)C(=O)N1CCN(CC1)C=1C2=C(N=CN1)C(C[C@H]2C)(C)O | C30H42ClN5O4
reactant | HCl | 4.0M | Cl | ClH
reactant | dioxane | 5.63 mmol, 1.4 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-chlorophenyl)-1-(4-((5R)-7-hydroxy-5,7-dimethyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-3-(isopropylamino)propan-1-one dihydrochloride | 49 mg, 100% | Cl.Cl.ClC1=CC=C(C=C1)C(C(=O)N1CCN(CC1)C=1C2=C(N=CN1)C(C[C@H]2C)(C)O)CNC(C)C | InChI=1S/C25H34ClN5O2.2ClH/c1-16(2)27-14-20(18-5-7-19(26)8-6-18)24(32)31-11-9-30(10-12-31)23-21-17(3)13-25(4,33)22(21)28-15-29-23;;/h5-8,15-17,20,27,33H,9-14H2,1-4H3;2*1H/t17-,20?,25?;;/m1../s1
